US04894386
A solution of t-butyl 4-[6-(cyclopentylmethylcarbamoyl)methyl-3-(2-methoxycarbonylvinyl)indol-1-ylmethyl]-3-methoxybenzoate (0.54 g) in methanol (20 ml) was treated with 10% palladium on carbon (0.13 g) and shaken under 3.45 bars of hydrogen for 18 hours. The catalyst was removed by filtration through diatomaceous earth, and the filtrate was evaporated to give t-butyl 4-[6-(cyclopentylmethylcarbamoyl)methyl-3-(2-methoxycarbonylethyl)indol-1-ylmethyl]-3-methoxybenzoate (0.45 g, 84%) as a white foam; partial NMR (80 MHz, CDCl3): 1.54(s, 9H, C(CH3)3), 2.69(t, 2H, COCH2), 3.62(s, 2H, COCH2Ar), 3.65(s, 3H, CO2CH3), 3.93(s, 3H, OCH3), 5.25(s, 2H, NCH2Ar).

reactant | t-butyl 4-[6-(cyclopentylmethylcarbamoyl)methyl-3-(2-methoxycarbonylvinyl)indol-1-ylmethyl]-3-methoxybenzoate | 0.54 g | C1(CCCC1)CNC(=O)CC1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)C=CC(=O)OC | C33H40N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
product | t-butyl 4-[6-(cyclopentylmethylcarbamoyl)methyl-3-(2-methoxycarbonylethyl)indol-1-ylmethyl]-3-methoxybenzoate | 0.45 g, 84% | C1(CCCC1)CNC(=O)CC1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)CCC(=O)OC | C33H42N2O6
